* Z:\mnt\design.r\spice\examples\1108-12.asc
V1 IN 0 5
C2 OUT 0 100µ Rser=0.02
D1 N001 OUT MBRS360
L1 IN N001 33µ Rser=0.02 Rpar=5000
XU1 IN IN N001 0 0 N002 N003 OUT LT1108 top=753K bot=87.4K
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LT1108.sub
.backanno
.end
